US05922728
To a stirred solution of 3-oxoandrost-4-ene-17β-carboxylic acid (30 g) in methylene chloride (300 mL) and dimethylformamide (1.82 mL) a solution of oxalyl chloride (9.28 mL) in methylene chloride (30 mL) was added dropwise at 0° C. under nitrogen atmosphere. After stirring at 0° C. for 1 hour the reaction was completed. The volatile compounds were removed under vacuum, the solid was taken up with cyclohexane (200 mL) and evaporated to dryness (twice). The 3-oxo-androst-4-ene-17β-carbonyl chloride (30.33 g) so obtained was dissolved in chloroform (1.5 L), cooled to 0° C. and treated with 1,1,1,3,3,3-hexafluorophenylpropyl amine (46.078 g) and pyridine (38.3 mL). The reaction mixture was heated at reflux for 7 hours. After staying overnight at room temperature the reaction mixture was washed with 1N HCl (2×100 mL), with brine, with water until neutral and dried over sodium sulfate. The solvent was evaporated under vacuum and the brownish solid purified by flash chromatography on silica gel (eluant: n-hexane/ethyl acetate 70/30) to yield 9.2 g of the title compound.

reactant | 3-oxoandrost-4-ene-17β-carboxylic acid | 30 g | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)O | C20H28O3
reactant | oxalyl chloride | 9.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 1.82 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-oxo-androst-4-ene-17β-carbonyl chloride | 30.33 g | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)Cl | C20H27ClO2
